US04777178
To a solution of cysteamine hydrochloride (11.3 g) in ethanol (250 ml) is added sodium hydroxide (4.0 g), and the mixture is stirred for 30 minutes under argon gas. A solution of 2-hydroxybenzaldehyde (12.2 g) in ethanol (40 ml) is added to the mixture, and the mixture is refluxed for 4 hours. To the mixture is added methyl isothiocyanate (7.9 g), and the mixture is further refluxed for 4 hours. After distilling off the solvent under reduced pressure, a mixture of water and ethanol is added to the resulting residue, and the insoluble crystals are collected by filtration. The crystals thus obtained are washed with water and ethanol and recrystallized from ethanol to give N-methyl-2-(2-hydroxyphenyl)thiazolidine-3-carbothioamide (7.9 g, yield: 31.1%).

reactant | cysteamine hydrochloride | 11.3 g | Cl.NCCS
reactant | sodium hydroxide | 4.0 g | [OH-].[Na+]
reactant | 2-hydroxybenzaldehyde | 12.2 g | OC1=C(C=O)C=CC=C1 | C7H6O2
reactant | methyl isothiocyanate | 7.9 g | CN=C=S | C2H3NS
solvent | ethanol | 250 ml | C(C)O | C2H6O
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | N-methyl-2-(2-hydroxyphenyl)thiazolidine-3-carbothioamide | 7.9 g, yield: 31.1% | CNC(=S)N1C(SCC1)C1=C(C=CC=C1)O | C11H14N2OS2
